US07902356B2
2-(4-Chloro-phenyl)-5-[3-methoxy-4-(morpholin-2-ylmethoxy)-phenyl]-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one
Dissolve 2-(4-chloro-phenyl)-5-(4-hydroxy-3-methoxy-phenyl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one (103 mg, 0.267 mmol), 2-hydroxymethyl-morpholine-4-carboxylic acid tert-butyl ester (Pharmacore, CAS: 135065-69-9) (70 mg, 0.324 mmol), and PBu3 (84 μl, 0.324 mmol) in dry toluene (1.2 mL). Cool to 0° C. then add 1,1′-(azodicarbonyl)piperidine (84 μl, 0.324 mmol). Let stir for 10 min at 0° C., then warm to ambient temperature overnight. Reaction mixture thickens and turns gel like. Add hexanes and collect solid via vacuum filtration. Wash the solid with hexanes several times. Dissolve the crude material in dry CH2Cl2 (500 μL) and TFA (200 μl) and stir overnight. Add 1N NaOH until the reaction is pH=10 and extract with EtOAc (3×10 mL). Dry the combined organic portions with Na2SO4, filter, and concentrate to give the title compound. MS (ES+) 486.0 (M+1)+.

reactant | 2-(4-chloro-phenyl)-5-(4-hydroxy-3-methoxy-phenyl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one | 0.267 mmol, 103 mg | ClC1=CC=C(C=C1)C=1SC=2C(N(CCC2N1)C1=CC(=C(C=C1)O)OC)=O | C19H15ClN2O3S
reactant | 2-hydroxymethyl-morpholine-4-carboxylic acid tert-butyl ester | 0.324 mmol, 70 mg | C(C)(C)(C)OC(=O)N1CC(OCC1)CO | C10H19NO4
reactant | PBu3 | 0.324 mmol, 84 μl | P(CCCC)(CCCC)CCCC | C12H27P
solvent | toluene | 1.2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Chloro-phenyl)-5-[3-methoxy-4-(morpholin-2-ylmethoxy)-phenyl]-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one | ClC1=CC=C(C=C1)C=1SC=2C(N(CCC2N1)C1=CC(=C(C=C1)OCC1CNCCO1)OC)=O | C24H24ClN3O4S
